US05753679
0.5 g (0.00216 mol) of 1-benzyl-4-hydroxypiperidine and 0.64 ml (0.0046 mol) of triethylamine were dissolved in 20 ml of toluene, treated with 0.313 ml (0.0027 mol) of benzoyl chloride and boiled at reflux for 6 hrs. The suspension was filtered, the filtrate was concentrated and the residue was chromatographed over silica gel with ethyl acetate/hexane (1:3) as the eluent. 0.525 g (82%) of 1-benzyl-piperidin-4-yl benzoate was obtained as yellowish oil.

reactant | 1-benzyl-4-hydroxypiperidine | 0.00216 mol, 0.5 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | triethylamine | 0.0046 mol, 0.64 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.0027 mol, 0.313 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-piperidin-4-yl benzoate | 0.525 g, 82% | C(C1=CC=CC=C1)(=O)OC1CCN(CC1)CC1=CC=CC=C1 | C19H21NO2
